US08980879B2
Methyl 2-((6S,Z)-4-(4-chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)acetate (see e.g., WO 2006129623)(100.95 mg, 0.243 mmol was suspended in 1 mL methanol to which was added a freshly prepared solution of lithium hydroxide monohydrate (0.973 mL, 0.5 M, 0.487 mmol) and shaken at ambient temperature for 3 hours. The methanol was evaporated and the pH adjusted with aqueous hydrochloric acid (1 M, 0.5 mL, 0.5 mmol) and extracted four times with ethyl acetate. The combined ethyl acetate layers were dried over magnesium sulfate and evaporated to afford 2-((6S,Z)-4-(4-chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)acetic acid (85.3 mg, 87.0%); ESI-MS m/z=401.1 [(M+H)+] which was used directly in the next reaction.

reactant | Methyl 2-((6S,Z)-4-(4-chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)acetate | ClC1=CC=C(C=C1)/C/1=N/[C@H](C=2N(C3=C1C(=C(S3)C)C)C(=NN2)C)CC(=O)OC | C20H19ClN4O2S
reactant | lithium hydroxide monohydrate | 0.487 mmol, 0.5 M, 0.973 mL | O.[OH-].[Li+]
reactant | hydrochloric acid | 0.5 mmol, 1 M, 0.5 mL | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | 2-((6S,Z)-4-(4-chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)acetic acid | 85.3 mg, 87.0% | ClC1=CC=C(C=C1)/C/1=N/[C@H](C=2N(C3=C1C(=C(S3)C)C)C(=NN2)C)CC(=O)O | C19H17ClN4O2S
